US04057647
2 g. of orthocarbonic acid tetraethyl ester are added to a solution of 2-(2',4'-difluoro-4-biphenylyl)-1-propylmagnesium -bromide, prepared from 3.11 g. of 4-(1-bromo-2-propyl)-2',4'-difluorobiphenyl, in 40 ml. of THF and the mixture is stirred for 4 hours at 25°. Excess dilute hydrochloric acid is added slowly. The mixture is heated under reflux for 24 hours, allowed to cool and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | orthocarbonic acid tetraethyl ester | C(C)OC(OCC)(OCC)OCC | C9H20O4
reactant | 2-(2',4'-difluoro-4-biphenylyl)-1-propylmagnesium -bromide | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(C[Mg]Br)C
reactant | 4-(1-bromo-2-propyl)-2',4'-difluorobiphenyl | BrCC(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C15H13BrF2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
